### ISSUE TITLE
bug: `exact` tactic is missing an occurs check

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#2504]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The `exact` tactic has logic to prevent assignment to a goal if the expression contains any new metavariable, where "new" means it was created during the elaboration of the argument to `exact`. However, before assigning the metavariable `exact` does not do an occurs check. In particular, the goal metavariable itself (which is not new) is allowed in the expression being assigned to the goal.

For example, `exact` allows this, but it leads to an immediate stack overflow:

```lean
example : True := by
  refine ?a
  exact ?a
```

Just to show it's not a property of `refine`, here's a version using `constructor` with the same stack overflow:
```lean
example : True ∧ True := by
  constructor
  · trivial
  · exact ?right 
```
It's worth mentioning this example too since it involves some indirection:
```lean
example : True ∧ True := by
  constructor
  · exact ?right
  · exact ?left
```

### Versions

leanprover/lean4:v4.0.0-rc4

**Comment by Kha** [comment]
Fixed in I believe #5720 
```
tactic 'exact' failed, attempting to close the goal using
  ?a
this is often due occurs-check failure
```
